US08357706B2
To a stirred solution of (S)-methyl 2-((5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)acetate INT-19 (128.0 mg, 0.29 mmol) in DCM (6.0 mL) was added Boc anhydride (125.1 mg, 0.57 mmol) and TEA (120 μL, 0.86 mmol). After stirring for 18 h, the mixture was concentrated. The resulting crude solid was purified by chromatography (EA/hexanes) to provide 119 mg (76%) of (S)-methyl 2-((tert-butoxycarbonyl) (5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)acetate INT-20. LCMS-ESI (m/z) calculated for C30H34N4O6: 546.61; no M/Z observed, tR=4.32 min.

reactant | (S)-methyl 2-((5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)acetate | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CCC[C@@H](C2=CC=C1)NCC(=O)OC | C25H26N4O4
reactant | Boc anhydride | 0.57 mmol, 125.1 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 2-((tert-butoxycarbonyl) (5-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-1,2,3,4-tetrahydronaphthalen-1-yl)amino)acetate | 119 mg, 76% | C(C)(C)(C)OC(=O)N(CC(=O)OC)[C@H]1CCCC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C)C)C#N | C30H34N4O6
